US04316907
(a) 5-Acetylthiophene-3-carboxamide
A solution of aluminium chloride (66.5 g) in acetyl chloride (200 ml) was stirred at room temperature for 1 h. Thiophene-3-carboxamide (12.7 g) was added in one aliquot and the resulting pale yellow solution stirred at room temperature for 4 h before being added cautiously to ice (1 kg) and dilute hydrochloric acid (400 ml). The resulting solution was saturated with sodium chloride and extracted with butanone (6×500 ml) and then ethyl acetate (6×500 ml). The combined organic extracts were evaporated to small volume, diluted with ethyl acetate (1000 ml) and washed thoroughly with sodium carbonate solution (6×100 ml) and water (100 ml) and then dried and evaporated to small volume to deposit the title compound as a white crystalline solid (14.0 g) m.p. 156°-157° which recrystallised from ethyl acetate, m.p. 156°-158°.

reactant | aluminium chloride | 66.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Thiophene-3-carboxamide | 12.7 g | S1C=C(C=C1)C(=O)N | C5H5NOS
reactant | hydrochloric acid | 400 ml | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
reactant | acetyl chloride | 200 ml | C(C)(=O)Cl | C2H3ClO
product | 5-Acetylthiophene-3-carboxamide | C(C)(=O)C1=CC(=CS1)C(=O)N | C7H7NO2S
